US06987116B2
A mixture of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[2,3-b]pyridine-5-carbonitrile (0.25 g, 0.52 mmol), 4-formylphenylboronic acid (0.16 mg, 1.05 mmol), and 30 mg of tetrakis(triphenylphosphine)palladium(0) in 45 mL of ethylene glycol dimethyl ether is prepared. To the mixture is added 20 mL of a saturated sodium carbonate solution and the reaction mixture is heated at reflux for 1 hour. The mixture is allowed to warm to room temperature and partitioned between water and dichloromethane. The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is triturated with ethyl acetate and the resulting solid is filtered and washed with diethyl ether to provide 0.16 g of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(4-formylphenyl)thieno[2,3-b]pyridine-5-carbonitrile as an off white solid, mp>240° C.; 1H NMR (DMSO-d6) δ 3.87 (s, 3H), 7.42 (s, 1H), 7.79 (s, 1H), 7.94 (d, J=8.3 Hz, 2H), 8.07 (d, J=8.3 Hz, 2H), 8.46 (s, 1H), 8.47 (s, 1H), 9.92 (s, 1H), 10.06 (s, 1H); MS 452.0 (M−H)−.

reactant | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[2,3-b]pyridine-5-carbonitrile | 0.52 mmol, 0.25 g | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)SC(=C2)I | C15H8Cl2IN3OS
reactant | 4-formylphenylboronic acid | 1.05 mmol, 0.16 mg | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | sodium carbonate | 20 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 45 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(4-formylphenyl)thieno[2,3-b]pyridine-5-carbonitrile | 0.16 g | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)SC(=C2)C2=CC=C(C=C2)C=O | C22H13Cl2N3O2S
